US05073550
A mixture of 2.70 g of methyl 5-hydroxy-7-(trifluoromethyl)pyrazolo[1,5-a]pyrimidine-3-carboxylate and 1.26 g of 4-dimethylaminopyridine was heated to 100° for 2.5 hours in 50 ml of phosphorus oxychloride. The resulting solution was concentrated in a vacuum and then partitioned between ethyl acetate and saturated sodium chloride solution. The organic phase was washed in succession with 1N hydrochloric acid and saturated sodium chloride solution, dried over sodium sulphate, freed from solvent in a vacuum and the residue was crystallized from ethyl acetate/petroleum ether. There was obtained methyl 5-chloro-7-(tri-fluoromethyl)pyrazolo[1,5-a]pyrimidine-3-carboxylate as white crystals of m.p. 126°-127°.

reactant | methyl 5-hydroxy-7-(trifluoromethyl)pyrazolo[1,5-a]pyrimidine-3-carboxylate | 2.70 g | OC1=NC=2N(C(=C1)C(F)(F)F)N=CC2C(=O)OC | C9H6F3N3O3
reactant | phosphorus oxychloride | 50 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
catalyst | 4-dimethylaminopyridine | 1.26 g | CN(C1=CC=NC=C1)C | C7H10N2
product | methyl 5-chloro-7-(tri-fluoromethyl)pyrazolo[1,5-a]pyrimidine-3-carboxylate | ClC1=NC=2N(C(=C1)C(F)(F)F)N=CC2C(=O)OC | C9H5ClF3N3O2
